US04725283
Preparation of 2,5-dibromo-4-nitroaniline
15 ml of water are added, with due care, to 115 ml of concentrated sulphuric acid; the temperature rises to 70° C. 0.105 mole (46 g) of 2,5-dibromo-4-nitro-N-benzenesulphonylaniline are then added. The temperature is maintained at 70°-78° C. for 2 hours. The reaction mixture is poured into 1 kg of ice and water; the expected product precipitates. After filtration and washing to neutrality the product is recrystallized from 450 ml of ethanol. It melts at 178° C.

reactant | sulphuric acid | 115 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,5-dibromo-4-nitro-N-benzenesulphonylaniline | 0.105 mole, 46 g | BrC1=C(NS(=O)(=O)C2=CC=CC=C2)C=C(C(=C1)[N+](=O)[O-])Br | C12H8Br2N2O4S
solvent | water | O | H2O
solvent | water | 15 ml | O | H2O
product | 2,5-dibromo-4-nitroaniline | BrC1=C(N)C=C(C(=C1)[N+](=O)[O-])Br | C6H4Br2N2O2
